US07875639B2
3-(2-Imino-4,5-dimethyl-thiazol-3-yl)-propan-1-ol hydrobromide
4,5-dimethyl-thiazol-2-ylamine (2.0 g, 16 mmol) and 3-bromo-propan-1-ol (1.6 mL, 19 mmol) were processed according to the method of Example 46A to afford the title compound.

reactant | 4,5-dimethyl-thiazol-2-ylamine | 16 mmol, 2.0 g | CC=1N=C(SC1C)N | C5H8N2S
reactant | 3-bromo-propan-1-ol | 19 mmol, 1.6 mL | BrCCCO | C3H7BrO
product | 3-(2-Imino-4,5-dimethyl-thiazol-3-yl)-propan-1-ol hydrobromide | Br.N=C1SC(=C(N1CCCO)C)C | InChI=1S/C8H14N2OS.BrH/c1-6-7(2)12-8(9)10(6)4-3-5-11;/h9,11H,3-5H2,1-2H3;1H
